US09403835B2
Step 2: (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(2-methylamino-ethoxy)-phenyl]-methanone
A solution of {2-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxy]-ethyl}-methyl-carbamic acid tert-butyl ester (1.54 mg; 3.08 mmol; 1 eq.) in a 4M solution of HCl 1,4-dioxane (7.7 mL; 30.8 mmol; 10 eq.) and DCM (25 mL) was stirred at room temperature for 2 hours then concentrated in vacuo. After dilution with DCM, the solution was washed with sat. aq. Na2CO3, dried over magnesium sulfate and concentrated in vacuo to afford the title compound (1.2 g, 89%) as a yellow powder. 1H NMR (DMSO-d6) δ 10.12 (br s, 2H), 7.46-7.35 (m, 1H), 7.35-7.26 (m, 1H), 7.18-7.10 (m, 1H), 7.04 (t, J=7.4 Hz, 1H), 4.85 (d, J=8.3 Hz, 2H), 4.67-4.28 (m, 3H), 4.22-3.74 (m, 4H), 3.62-3.45 (m, 2H), 2.85 (s, 1.5H), 2.81 (s, 1.5H), 2.62 (s, 1.5H), 2.56 (s, 1.5H), 2.34-2.19 (m, 1H), 2.17-1.98 (m, 1H). HPLC (max plot) 94.7%, Rt 2.61 min. UPLC/MS: (MS+) 400.2 ([M+H]+).

reactant | {2-[2-(6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]indene-2-carbonyl)-phenoxy]-ethyl}-methyl-carbamic acid tert-butyl ester | 3.08 mmol, 1.54 mg, 1 eq. | C(C)(C)(C)OC(N(C)CCOC1=C(C=CC=C1)C(=O)N1CC=2C(=C3N=C(C(=C(N3N2)C)Cl)C)C1)=O | C25H30ClN5O4
reactant | HCl 1,4-dioxane | 30.8 mmol, 7.7 mL, 10 eq. | O1CCOCC1.Cl
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | (6-chloro-5,7-dimethyl-1H,3H-2,4,7a,8-tetraaza-cyclopenta[a]inden-2-yl)-[2-(2-methylamino-ethoxy)-phenyl]-methanone | 1.2 g, 89% | ClC1=C(N2N=C3C(=C2N=C1C)CN(C3)C(=O)C3=C(C=CC=C3)OCCNC)C | C20H22ClN5O2
